USRE038408E1
Japanese Kokai Patent Application No. 59-51288 provides one method of making 9-nitro-camptothecin by treating camptothecin with a slight excess of concentrated nitric acid in concentrated sulfuric acid. However, when following this procedure, a yield of about 3% to about 7% of the 9NC product which is capable for medicinal use is obtained. Further, this procedure results in unwanted byproducts such as the inactive isomer, 12-nitrocamptothecin (12NC), in a ratio of about 1 to 3 of 9NC to 12NC. The following scheme shows the reaction from the use of nitric acid and sulfuric acid.

reactant | camptothecin | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 12NC | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C(=C4)C=CC=C5[N+](=O)[O-])O | C20H15N3O6
